US08314119B2
2-Chloro-6-phenylpyrazine
Prepared from 2,6-dichloropyrazine (1.01 g, 6.78 mmol) and phenylboronic acid (946.7 mg, 7.76 mmol) according to Method K, except the product was purified by silica gel chromatography (DCM, Rf=0.37) instead of preparative HPLC: 1H NMR (300 MHz, chloroform-D) δ ppm 7.46-7.53 (m, 3H), 7.94-7.98 (m, 2H), 8.22 (s, 1H), 8.63 (s, 1H). MS (DCI/NH3) m/z=191 (M+H)+.

reactant | 2,6-dichloropyrazine | 6.78 mmol, 1.01 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | phenylboronic acid | 7.76 mmol, 946.7 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-Chloro-6-phenylpyrazine | ClC1=NC(=CN=C1)C1=CC=CC=C1 | C10H7ClN2
